US07405300B2
2-(Piperidin-1-yl)-1-phenyl-1H-indole-3-carboxaldehyde
2-Chloro-1-phenyl-1H-indole-3-carboxaldehyde is reacted with piperidine as described in Example 2 to give, after flash chromatography, the title compound (50% yield). NMR (CDCl3) 10.23 (1H, s), 8.29 (1H, d), 7.59 (2H, m), 7.50 (1H, m), 7.40 (2H, d), 7.22 (1H, m), 7.11 (1H, t), 6.98 (1H, d), 3.25 (4H, m), 1.53 (2H, m), 1.42 (4H, m).

reactant | 2-Chloro-1-phenyl-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C15H10ClNO
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-(Piperidin-1-yl)-1-phenyl-1H-indole-3-carboxaldehyde | 50% yield | N1(CCCCC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C20H20N2O
